US08895544B2
5-Ethyl-2-fluoro-4-[3-(5-quinolin-6-ylmethyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol
To a solution of 5-ethyl-2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt (Preparation 25, 50 mg, 132 μmol) in DMF (1 mL), was added quinoline-6-carbaldehyde (31 mg, 198 μmol), DIPEA (34 mg, 46 μL, 264 μmol) and AcOH (11.8 mg, 11 μL, 198 μmol). The reaction mixture was stirred at room temperature for 1 hour. STAB (42 mg, 198 μmol) was added and stirring was continued for 18 hours. The reaction mixture was partitioned between EtOAc (10 mL) and saturated aqueous sodium hydrogen carbonate solution (10 ml). The organic layer was washed with further saturated aqueous sodium hydrogen carbonate solution (2×10 mL), dried over magnesium sulfate and concentrated in vacuo to furnish a brown oil. The crude material was purified by HPLC Method A to afford 20.6 mg of the title compound.

reactant | 5-ethyl-2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt | 132 μmol, 50 mg | Br.Br.Br.C(C)C=1C(=CC(=C(C1)O)F)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CNCC2)N1
reactant | quinoline-6-carbaldehyde | 198 μmol, 31 mg | N1=CC=CC2=CC(=CC=C12)C=O | C10H7NO
reactant | DIPEA | 264 μmol, 46 μL, 34 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | AcOH | 198 μmol, 11 μL, 11.8 mg | CC(=O)O | C2H4O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 5-Ethyl-2-fluoro-4-[3-(5-quinolin-6-ylmethyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol | 20.6 mg | C(C)C=1C(=CC(=C(C1)O)F)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CN(CC2)CC=2C=C3C=CC=NC3=CC2)N1 | C31H27FN6O
